US05879657
Methyl 3-Amino-5-aminomethylbenzoate
A solution of Methyl 3-Azidomethyl-5-nitrobenzoate (15.50 g, 65.7 mmol) and benzene sulfonic acid (22.14 g, 140 mmol) in warm methanol (320 ml) was placed in a Parr shaker bottle and purged with nitrogen for 15 minutes. Palladium on carbon catalyst (10% Pd/C, 4.0 g) was added and the shaker bottle was further purged with 7 pressurization-evacuation cycles, repressurized, and allowed to shake 18 hours, during which time the required amount of hydrogen was consumed. The catalyst was removed by filtration through a bed of Celite and the filtrate was concentrated under reduced pressure yielding a tan oil. Trituration with refluxing EtOAc (2×150 ml) followed by cooling 12 hours at -5° C. gave a tan solid which was collected by filtration, washed with EtOAc (2×50 ml) and dried under vacuum (25.82 g, 80%). 1H NMR (CD3OD): 8.25-8.23 (m, 1H), 8.07-8.06 (m, 1H), 7.86-7.80 (m, 5H), 7.49-7.42 (m, 6H), 4.29 (s, 2H), 3.97 (s, 3H).

reactant | Methyl 3-Azidomethyl-5-nitrobenzoate | 65.7 mmol, 15.50 g | N(=[N+]=[N-])CC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C9H8N4O4
reactant | benzene sulfonic acid | 140 mmol, 22.14 g | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
reactant | EtOAc | 150 ml | CCOC(=O)C | C4H8O2
solvent | methanol | 320 ml | CO | CH4O
product | Methyl 3-Amino-5-aminomethylbenzoate | NC=1C=C(C(=O)OC)C=C(C1)CN | C9H12N2O2
